US08114881B2
a) 5-Methyl-3-oxo-4-[3-(trifluoromethyl)phenyl]-3,4-dihydropyrazine-2-carboxylic acid
NaOH (1M, 6 ml) was added to methyl 5-methyl-3-oxo-4-[3-(trifluoromethyl)phenyl]-3,4-dihydropyrazine-2-carboxylate (0.60 g, 1.92 mmol) dissolved in EtOH (12 ml) and the to mixture was stirred for 15 minutes. The aqueous phase was neutralized by addition of HCl (1M, 7 ml) to pH 6 to 7 and extracted with ethyl acetate (3×15 ml). The organic phase was dried (MgSO4), filtered and evaporated. No further purification was performed.

reactant | NaOH | 1M, 6 ml | [OH-].[Na+]
reactant | methyl 5-methyl-3-oxo-4-[3-(trifluoromethyl)phenyl]-3,4-dihydropyrazine-2-carboxylate | 1.92 mmol, 0.60 g | CC=1N(C(C(=NC1)C(=O)OC)=O)C1=CC(=CC=C1)C(F)(F)F | C14H11F3N2O3
reactant | HCl | 1M, 7 ml | Cl | ClH
solvent | EtOH | 12 ml | CCO | C2H6O
product | 5-Methyl-3-oxo-4-[3-(trifluoromethyl)phenyl]-3,4-dihydropyrazine-2-carboxylic acid | CC=1N(C(C(=NC1)C(=O)O)=O)C1=CC(=CC=C1)C(F)(F)F | C13H9F3N2O3
